US09370507B2
Step 2: Preparation of (Z)-N-(((6-(Methylsulfonamido)pyridine-2-yl)amino)((2-(trifluoromethyl)benzyl)amino)methylene)-4-(trifluoromethyl)benzamide
(Z)-N-(((6-Aminopyridin-2-yl)amino)((2-(trifluoromethyl)benzyl)amino) methylene)-4-(trifluoromethyl)benzamide (200 mg, 0.42 mmol) was dissolved in dichloromethane (3.8 mL) and pyridine (0.4 mL) was added followed by mesyl chloride (32 μL, 0.42 mmol). The reaction was stirred at room temperature for 3 days, and another equivalent of mesyl chloride (32 μL, 0.42 mmol) was added, and stirring continued for another 24 h. The crude material then was concentrated, and the residue was partitioned between water and ethyl acetate, and the organic layer was washed with brine, then dried over sodium sulfate, and concentrated in vacuo to provide the crude product. The crude product was purified by chromatography (gradient: 8:2 hexanes:EtOAc to 2:8 hexanes:EtOAc) to provide the title compound (95 mg, 41% yield).

reactant | (Z)-N-(((6-Aminopyridin-2-yl)amino)((2-(trifluoromethyl)benzyl)amino) methylene)-4-(trifluoromethyl)benzamide | 0.42 mmol, 200 mg | NC1=CC=CC(=N1)N\C(=N/C(C1=CC=C(C=C1)C(F)(F)F)=O)\NCC1=C(C=CC=C1)C(F)(F)F | C22H17F6N5O
reactant | pyridine | 0.4 mL | N1=CC=CC=C1 | C5H5N
reactant | mesyl chloride | 0.42 mmol, 32 μL | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | mesyl chloride | 0.42 mmol, 32 μL | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | dichloromethane | 3.8 mL | ClCCl | CH2Cl2
product | (Z)-N-(((6-(Methylsulfonamido)pyridine-2-yl)amino)((2-(trifluoromethyl)benzyl)amino)methylene)-4-(trifluoromethyl)benzamide | 95 mg, 41% yield | CS(=O)(=O)NC1=CC=CC(=N1)N\C(=N/C(C1=CC=C(C=C1)C(F)(F)F)=O)\NCC1=C(C=CC=C1)C(F)(F)F | C23H19F6N5O3S
